US07960365B2
5-Chloro-1,3-dimethyl-1H-pyrazole-4-sulfonic acid (5′-chloro-3,2′-dimethoxy-biphenyl-4-ylmethyl)-amide
A mixture of 2-methoxy-4-hydroxybenzaldehyde (0.406 g, 2.67 mmol), N-phenyl-bis (trifluoromethane)sulfonimide) (0.953 g, 2.67 mmol) and potassium carbonate (0.74 g, 5.3 mmol) in tetrahydrofuran (4.0 ml) was heated in a microwave oven at 120° C. for 10 min. The mixture was partitioned between ethyl acetate and dilute aqueous sodium hydroxide solution. The organic phase was washed with water, dried over anhydrous sodium sulfate and the solvent evaporated to give trifluoro-methanesulfonic acid 4-formyl-3-methoxy-phenyl ester. A mixture of trifluoro-methanesulfonic acid 4-formyl-3-methoxy-phenyl ester (5.05 g, 17.8 mmol), titanium tetraethoxide (8.3 ml, 40.0 mmol) and 2-methyl-2-propanesulfinamide (4.74 g, 39.1 mmol) in tetrahydrofuran (50 ml) was stirred at ambient temperature for 2 days. The mixture was cooled in ice and then added portionwise to a stirred mixture of sodium borohydride (2.70 g, 71.1 mmol) in tetrahydrofuran (25 ml) at −78° C. The solution was allowed to warm to ambient temperature, treated slowly with water (with cooling) and extracted with ethyl acetate. The combined organic extracts were washed brine, dried over anhydrous sodium sulfate and the solvent evaporated. The residue was flash chromatographed on silica gel (gradient elution with 1:1 heptane/ethyl acetate to 100% ethyl acetate to give trifluoro-methanesulfonic acid 3-methoxy-4-[(2-methyl-propane-2-sulfinylamino)-methyl]-phenyl ester. A mixture of trifluoro-methanesulfonic acid 3-methoxy-4-[(2-methyl-propane-2-sulfinylamino)-methyl]-phenyl ester (0.10 g, 0.26 mmol), 5-chloro-2-methoxyphenyl boronic acid (0.053 g, 0.28 mmol), tetrakis(triphenylphosphine)palladium (0) (7.4 mg, 0.006 mmol) and potassium carbonate (0.071 g, 0.52 mmol) in toluene (0.8 ml) and methanol (0.2 ml) was heated in a microwave oven at 120° C. for 15 min. The mixture was partitioned between ethyl acetate and dilute aqueous sodium hydroxide solution. The organic phase was dried over anhyrous sodium sulfate, the solvent evaporated and the residue flash chromatographed on silica gel eluting with 1:1 heptane/ethyl acetate. The solvent was evaporated and the residue dissolved in ethanol, and treated with 2M hydrogen chloride in diethyl ether solution. After standing for 2 h, the mixture was poured onto an SCX column, washed with methanol and then eluted with 1M ammonia in methanol solution. The solvent was evaporated and the residue flash chromatographed on silica gel eluting with 98:2 ethyl acetate/2M ammonia in methanol solution to give (5′-chloro-3,2′-dimethoxy-biphenyl-4-yl)-methylamine. To a solution of (5′-chloro-3,2′-dimethoxy-biphenyl-4-yl)-methylamine (0.011 g, 0.04 mmol) in dichloromethane (1 ml) was added triethylamine (4.0 mg, 0.04 mmol) and 5-chloro-1,3-dimethyl-1h-pyrazole-4-sulfonyl chloride (9.2 mg, 0.04 mmol) and the solution was stirred overnight. Purification by preparatory LCMS and removal of solvent under reduced pressure gave the title compound. MS (ESI) m/z: 471.0 [M+H]+.

reactant | (5′-chloro-3,2′-dimethoxy-biphenyl-4-yl)-methylamine | 0.04 mmol, 0.011 g | ClC=1C=CC(=C(C1)C1=CC(=C(C=C1)NC)OC)OC | C15H16ClNO2
reactant | triethylamine | 0.04 mmol, 4.0 mg | C(C)N(CC)CC | C6H15N
reactant | 5-chloro-1,3-dimethyl-1h-pyrazole-4-sulfonyl chloride | 0.04 mmol, 9.2 mg | ClC1=C(C(=NN1C)C)S(=O)(=O)Cl | C5H6Cl2N2O2S
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 5-Chloro-1,3-dimethyl-1H-pyrazole-4-sulfonic acid (5′-chloro-3,2′-dimethoxy-biphenyl-4-ylmethyl)-amide | ClC=1C=CC(=C(C1)C1=CC(=C(C=C1)CNS(=O)(=O)C=1C(=NN(C1Cl)C)C)OC)OC | C20H21Cl2N3O4S
